US08664233B2
16.3 g (81.5 mmol) 5-bromo-2-fluorobenzonitrile, 9.2 g (83.1 mmol) glycinamide hydrochloride and 23.6 g (170.8 mmol) K2CO3 were suspended in 40 ml DMSO and heated at 100° C. for 3 h. Having cooled down to room temperature, the solvent was concentrated and water was added. The resulting precipitate was sucked off and washed with water. 16.0 g (77%) 2-(4-bromo-2-cyano-phenylamino)acetamide was obtained. ESI-MS [m/z]: 254, 256 [M+H]+

reactant | 5-bromo-2-fluorobenzonitrile | 81.5 mmol, 16.3 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | glycinamide hydrochloride | 83.1 mmol, 9.2 g | Cl.NCC(=O)N
reactant | K2CO3 | 170.8 mmol, 23.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 2-(4-bromo-2-cyano-phenylamino)acetamide | 16.0 g, 77% | BrC1=CC(=C(C=C1)NCC(=O)N)C#N | C9H8BrN3O
